US05965553
Ethyl trans-7-chloro-5-(1-naphthyl)-1-(2,2-dimethyl-3-dimethylamino-propyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate
Dimethylamine (0.18 g, 4.0 mmol) was added to ethyl trans-7-chloro-5-(1-naphthyl)-1-(2-formyl-2-methylpropyl)-2-oxo-1,2,3,5-tetrahydro-4,1 -benzoxazepine-3-acetate (2.0 g, 4.05 mmol) in titanium tetraisopropoxide (3.45 g, 12.15 mmol) at room temperature. Stirring for 1h was followed by addition of sodium cyanoborohydride (0.38 g, 6.0 mmol) and ethanol (20 ml). The mixture was stirred for another 18 hours before 2 N sodium hydroxide was added. The mixture was extracted several times with dichloromethane, and the combined organic layers were dried with MgSO4. The filtrate was concentrated under reduced pressure, and the residue was purified by flash chromatography (dichloromethane/ methanol/aqueous ammonia 99:1:0.1 to 98:2:0.2) to give the title compound (1.23 g, 58%) as a yellow oil.

reactant | Dimethylamine | 4.0 mmol, 0.18 g | CNC | C2H7N
reactant | ethyl trans-7-chloro-5-(1-naphthyl)-1-(2-formyl-2-methylpropyl)-2-oxo-1,2,3,5-tetrahydro-4,1 -benzoxazepine-3-acetate | 4.05 mmol, 2.0 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)(C)C=O)=O)CC(=O)OCC)C2=CC=CC3=CC=CC=C23)C1 | C28H28ClNO5
reactant | sodium cyanoborohydride | 6.0 mmol, 0.38 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
catalyst | titanium tetraisopropoxide | 12.15 mmol, 3.45 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl trans-7-chloro-5-(1-naphthyl)-1-(2,2-dimethyl-3-dimethylamino-propyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate | 1.23 g, 58% | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(CN(C)C)(C)C)=O)CC(=O)OCC)C2=CC=CC3=CC=CC=C23)C1 | C30H35ClN2O4
